US06469023B1
5-Amino-7-[1-amino-5-azaspiro[2.4]heptan-5-yl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic Acid [isomer II (1-a)]
A 693 mg (2.00 mmol) portion of 5-benzyloxycarbonyl-1-tert-butoxycarbonylamino-5-azaspiro[2.4]heptane (1-a) was dissolved in 60 ml of ethanol, and the solution was mixed with 600 mg of 10% palladium-carbon and subjected to 2 hours of hydrogenation under atmospheric pressure. After completion of the reaction, 10% palladium-carbon was removed by filtration and ethanol was evaporated. The thus obtained residue was suspended in 6 ml of dimethyl sulfoxide, and the suspension was mixed with 312 mg (1.00 mmol) of 5-amino-6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 2.00 ml (14.35 mmol) of triethylamine, and heated at 150 to 160° C. for 19 hours in a stream of nitrogen. After evaporation of the solvent, the thus obtained residue was mixed with chloroform, washed with water, 10% citric acid aqueous solution and saturated brine in that order, and then dried over anhydrous sodium sulfate, subsequently evaporating the solvent. The thus obtained tert-butylcarbamate compound was mixed with 5 ml of concentrated hydrochloric acid, stirred at room temperature for 20 minutes, washed with chloroform (50 ml×3), adjusted to pH 7.4 with sodium hydroxide aqueous solution and then extracted with chloroform, and the extract was dried over anhydrous sodium sulfate. After evaporation of the solvent, the resulting residue was purified by a preparative TLC (developed by the lower layer of chloroform:methanol:water 7:3:1) and recrystallized from ethanol-ether to yield 142 mg (35%) of the title compound.

reactant | 5-benzyloxycarbonyl-1-tert-butoxycarbonylamino-5-azaspiro[2.4]heptane | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2NC(=O)OC(C)(C)C)CC1 | C19H26N2O4
reactant | 5-amino-6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.00 mmol, 312 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F3N2O3
reactant | triethylamine | 14.35 mmol, 2.00 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 600 mg | [C].[Pd]
product | 5-Amino-7-[1-amino-5-azaspiro[2.4]heptan-5-yl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic Acid | 142 mg, 35% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC2(CC2N)CC1)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C20H22F2N4O3
